US05073566
α-Hexyl-4-(2-carboxybenzoyl)benzeneacetic acid
The ethyl ester of the titled product was prepared in 18% yield by reacting phthalic anhydride and α-hexylbenzeneacetic acid ethyl ester in the presence of aluminum chloride in DMF according to the general procedure of Example 55. The title product was then prepared according to the procedure of Example 26 in 45% yield from the intermediate ester, m.p. 118°-121° C.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | α-hexylbenzeneacetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)CCCCCC)=O | C16H24O2
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | DMF | CN(C)C=O | C3H7NO
product | α-Hexyl-4-(2-carboxybenzoyl)benzeneacetic acid | 18% yield | C(CCCCC)C(C(=O)O)C1=CC=C(C=C1)C(C1=C(C=CC=C1)C(=O)O)=O | C22H24O5
